US06528525B1
2-(N-ethyl-N-phenylamino)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 144-33 compound)
Ethyl 2-(N-ethyl-N-phenylamino)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)-ethoxy]phenyl]propionate, which is the product in Example 179, is hydrolyzed by sodium hydroxide in methanol to give the title compound.

reactant | Ethyl 2-(N-ethyl-N-phenylamino)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)-ethoxy]phenyl]propionate | C(C)N(C1=CC=CC=C1)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C33H35N3O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(N-ethyl-N-phenylamino)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | C(C)N(C1=CC=CC=C1)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C31H31N3O4
